US07037925B2
(3-Amino-2-ethylphenyl)methanol
To a solution of methyl 3-amino-2-ethylbenzoate (0.83 g, 4.63 mmol), in THF (40 ml) was added Lithium aluminium hydride (0.9 g, 23.7 mmol). The mixture was heated at 50 C. for 5 h, cooled to 0 C. and hydrolysed cautiously with water. The slurry was extracted with EtOAc (×5). The extracts were washed with brine, dried Na2SO4, and evaporated. The residue was purified by chromatography (CH2Cl2/MeOH) to give the title compound 0.63 g (89%) as a white powder.

reactant | methyl 3-amino-2-ethylbenzoate | 4.63 mmol, 0.83 g | NC=1C(=C(C(=O)OC)C=CC1)CC | C10H13NO2
reactant | Lithium aluminium hydride | 23.7 mmol, 0.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | (3-Amino-2-ethylphenyl)methanol | 0.63 g, 89% | NC=1C(=C(C=CC1)CO)CC | C9H13NO
